US05530019
The procedure of Ex. 16 was repeated except that transethyl 4-[3-(4-pentylcyclohexylcarbonyl)-1-indolyl]butyrate obtained in Ex. 32 was used in place of ethyl 4-[3-[8-(4-isobutylphenyl) undecanoyl]-1-indolyl]butyrate to give trans-4-[3-(4-pentylcyclohexylcarbonyl)-1-indolyl]butyric acid.

reactant | transethyl 4-[3-(4-pentylcyclohexylcarbonyl)-1-indolyl]butyrate | C(CCCC)[C@@H]1CC[C@H](CC1)C(=O)C1=CN(C2=CC=CC=C12)CCCC(=O)OCC | C26H37NO3
reactant | ethyl 4-[3-[8-(4-isobutylphenyl) undecanoyl]-1-indolyl]butyrate | C(C(C)C)C1=CC=C(C=C1)C(CCCCCCC(=O)C1=CN(C2=CC=CC=C12)CCCC(=O)OCC)CCC | C35H49NO3
product | trans-4-[3-(4-pentylcyclohexylcarbonyl)-1-indolyl]butyric acid | C(CCCC)[C@@H]1CC[C@H](CC1)C(=O)C1=CN(C2=CC=CC=C12)CCCC(=O)O | C24H33NO3
